US09034900B2
Step 3: N-[3-(1,4,5-trimethyl-6-oxopyridin-3-yl)phenyl]methanesulfonamide
5-Bromo-1,3,4-trimethylpyridin-2-one was treated with [3-(methanesulfonamido)phenyl]boronic acid in a manner similar to Example 94 to give the title compound as a white solid. 1H NMR (CDCl3, 400 MHz) δ 7.42 (s, 1H), 7.39 (t, J=7.6 Hz, 1H), 7.24 (s, 1H), 7.16 (s, 1H), 7.08 (s, 1H), 7.05 (d, J=7.6 Hz, 1H), 3.59 (s, 3H), 3.06 (s, 3H), 2.19 (s, 3H), 2.06 (s, 3H). LCMS (M+H)+ 307.

reactant | 5-Bromo-1,3,4-trimethylpyridin-2-one | BrC=1C(=C(C(N(C1)C)=O)C)C | C8H10BrNO
reactant | [3-(methanesulfonamido)phenyl]boronic acid | CS(=O)(=O)NC=1C=C(C=CC1)B(O)O | C7H10BNO4S
product | N-[3-(1,4,5-trimethyl-6-oxopyridin-3-yl)phenyl]methanesulfonamide | CN1C=C(C(=C(C1=O)C)C)C=1C=C(C=CC1)NS(=O)(=O)C | C15H18N2O3S
